// Generated for: spectre
// Generated on: May 11 17:15:22 2019
// Design library name: GF65_sim
// Design cell name: TB_comp
// Design view name: schematic
simulator lang=spectre
global 0
parameters VIN=1m S=8 CL=64 VDD=1.2 Fs=1G
include "/home/techfile/IBM65nm/IBM_PDK/cmos10lpe/V1.6.0.0RF/Spectre/models/design.scs"

// Library name: GF65_sim
// Cell name: INV_X8
// View name: schematic
subckt INV_X8 Y VDD VNW VPW VSS A
    I2 (Y A VSS VPW) nmos l=60n w=240.0n m=8 nf=1
    I3 (Y A VDD VNW) pmos l=60n w=480.0n m=8 nf=1
ends INV_X8
// End of subcircuit definition.

// Library name: GF65_sim
// Cell name: INV_X2
// View name: schematic
subckt INV_X2 Y VDD VNW VPW VSS A
    I2 (Y A VSS VPW) nmos l=60n w=240.0n m=2 nf=1
    I3 (Y A VDD VNW) pmos l=60n w=480.0n m=2 nf=1 
ends INV_X2
// End of subcircuit definition.

// Library name: GF65_sim
// Cell name: RDYgen
// View name: schematic
subckt RDYgen IN IP RDY RS VDD VSS
    I100 (RDY VDD VDD VSS VSS net45) INV_X8
    I102 (net46 VDD VDD VSS VSS RS) INV_X2
    M0 (net45 net46 VDD VDD) pmos l=60n w=480.0n m=4 nf=1 
    M1 (net45 IN VSS VSS) nmos l=60n w=240.0n m=8 nf=1
    M2 (net45 IP VSS VSS) nmos l=60n w=240.0n m=8 nf=1
ends RDYgen
// End of subcircuit definition.

// Library name: GF65_sim
// Cell name: COMP_DynamicLAT
// View name: schematic
subckt COMP_DynamicLAT DN DP IN IP VDD VSS
    I95 (DN VDD VDD VSS VSS net113) INV_X8
    I94 (DP VDD VDD VSS VSS net17) INV_X8
    M2 (net17 IP VDD VDD) pmos l=60n w=S*480.0n m=4 nf=1
    M3 (net113 IN VDD VDD) pmos l=60n w=S*480.0n m=4 nf=1
    M5 (net113 net17 VDD VDD) pmos l=60n w=S*480.0n m=8 nf=1
    M4 (net17 net113 VDD VDD) pmos l=60n w=S*480.0n m=8 nf=1
    M6 (net17 IP net112 VSS) nmos l=60n w=S*240.0n m=8 nf=1
    M7 (net113 IN net111 VSS) nmos l=60n w=S*240.0n m=8 nf=1
    M0 (net112 net113 VSS VSS) nmos l=60n w=S*240.0n m=8 nf=1
    M1 (net111 net17 VSS VSS) nmos l=60n w=S*240.0n m=8 nf=1
ends COMP_DynamicLAT
// End of subcircuit definition.

// Library name: GF65_sim
// Cell name: COMP_DynamicAMP
// View name: schematic
subckt COMP_DynamicAMP AN AP CK ON OP RS VDD VSS
    I65 (ON RS VSS VSS) nmos l=60n w=S*240.0n m=4 nf=1
    T4 (OP RS VSS VSS) nmos l=60n w=S*240.0n m=4 nf=1 
    I62 (OP AP OP VDD) pmos l=60n w=S*480.0n m=1 nf=1
    T0 (ON AN ON VDD) pmos l=60n w=S*480.0n m=1 nf=1
    T3 (net016 CK VDD VDD) pmos l=60n w=S*480.0n m=4 nf=1
    T2 (ON AP net016 VDD) pmos l=60n w=S*480.0n m=2 nf=1
    I63 (VDD ON VDD VDD) pmos l=60n w=CL*480.0n m=1 nf=1
    T5 (VDD OP VDD VDD) pmos l=60n w=CL*480.0n m=1 nf=1
    T1 (OP AN net016 VDD) pmos l=60n w=S*480.0n m=2 nf=1 
ends COMP_DynamicAMP
// End of subcircuit definition.

// Library name: GF65_sim
// Cell name: TB_comp
// View name: schematic
I126 (CompN1 CompP1 RDY LAT VDD VSS) RDYgen
I124 (DN DP CompN1 CompP1 VDD VSS) COMP_DynamicLAT
V0 (LAT 0) vsource type=pulse val0=0 val1=VDD period=1/Fs delay=0 rise=10p \
        fall=10p width=0.55/Fs
I18 (INN INP LAT CompN1 CompP1 LAT VDD VSS) COMP_DynamicAMP
V5 (VDD 0) vsource dc=VDD type=dc
V4 (VSS 0) vsource dc=0 type=dc
V3 (INN 0) vsource dc=VDD/2-VIN/2 type=dc
V2 (INP 0) vsource dc=VDD/2+VIN/2 type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 multithread=on nthreads=4 scalem=1.0 scale=1.0 gmin=1e-12 \
    rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=100n errpreset=conservative noisefmax=20G noisefmin=1k \
    noiseseed=1 noisescale=1 noiseupdate=fmax write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V5:p 
saveOptions options save=allpub
